### PR TITLE
Lemma 7.5.8 (scales impacting interval)

### PR DESCRIPTION
**Pull request by lakesare**
### Lemma 7.5.8 - scales impacting interval ([blueprint](https://florisvandoorn.com/carleson/blueprint/treesection.html#scales-impacting-interval))

The proof is ready, PR review is appreciated.

### TODOs

- [x] add `\leanok`
- [x] refactor

### CODE REVIEW

**Comment by fpvandoorn** [comment]
I have changed a repository setting, so that CI runs on PRs from first-time contributors (as long as they are not new to Github).

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 1]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
   sorry
 
 /-- Lemma 7.5.8. -/
-lemma scales_impacting_interval (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ ≠ u₂)
-    (h2u : 𝓘 u₁ ≤ 𝓘 u₂) (hJ : J ∈ 𝓙₅ t u₁ u₂) (hp : p ∈ t u₁ ∪ (t u₂ ∩ 𝔖₀ t u₁ u₂))
-    (h : ¬ Disjoint (ball (𝔠 p) (8 * D ^ 𝔰 p)) (ball (c J) (8 * D ^ s J))) : s J ≤ 𝔰 p := by
-  sorry
+lemma scales_impacting_interval (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ ≠ u₂) (h2u : 𝓘 u₁ ≤ 𝓘 u₂) (hJ : J ∈ 𝓙₅ t u₁ u₂) (hp : p ∈ (t u₁ ∪ (t u₂ ∩ 𝔖₀ t u₁ u₂))) (h : ¬ Disjoint (ball (𝔠 p) (8 * D ^ 𝔰 p)) (ball (c J) (8 * D ^ s J))) : s J ≤ 𝔰 p := by
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:123]: please keep the newlines in the statement

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 2]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
...
+  rcases hJ with ⟨hJLeft, _⟩
+  apply 𝓙_subset_𝓙₀ at hJLeft
+  apply Set.mem_or_mem_of_mem_union at hp
+
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:127]: generally we don't put newlines in tactic proofs (a line with a comment explaining the proof is fine)

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 3]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
...
+  have belongs : p ∈ t.𝔖₀ u₁ u₂ := by
+    cases' hp with h1 h2
+    exact 𝔗_subset_𝔖₀ hu₁ hu₂ hu h2u h1
+    exact Set.mem_of_mem_inter_right h2
+
+  cases' hJLeft with scaleVerySmall noGridInBall
+
+  exact trans scaleVerySmall (scale_mem_Icc.left)
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:135]: If you have multiple goals, it is good to indent them with a center dot `·` (`\.`).
This is optional for the last goal (which in this case makes sense to leave out, since it's the rest of the proof)
```suggestion
  · exact trans scaleVerySmall (scale_mem_Icc.left)
```

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 4]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
...
+
+  have pGridIsNotInBall := noGridInBall p belongs
+  rw [not_subset] at pGridIsNotInBall
+  rcases pGridIsNotInBall with ⟨x, ⟨xInTile, xIsNotInBall⟩⟩
+  rw [Metric.mem_ball'] at xIsNotInBall
+
+  by_contra contr
+  apply lt_of_not_ge at contr
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:143]:
```suggestion
  by_contra! contr
```

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 5]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
...
+  apply xIsNotInBall
+  simp only [not_disjoint_iff] at h
+  rcases h with ⟨middleX, ⟨xxx, yyy⟩⟩
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:146]:
```suggestion
  rcases h with ⟨middleX, xxx, yyy⟩
```
you can leave out nested parentheses if they occur in the last projection.

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 6]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
...
+
+  calc dist (c J) (x)
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:148]:
```suggestion
  calc dist (c J) x
```

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 7]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
...
+    _ = dist (x) (c J) := by
+      apply dist_comm
+    _ ≤ dist (x) (𝔠 p) + dist (𝔠 p) (c J) := by
+      exact dist_triangle (x := x) (y := 𝔠 p) (z := c J)
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:152]:
```suggestion
    _ ≤ dist (x) (𝔠 p) + dist (𝔠 p) (c J) := dist_triangle ..
```
Your current version is completely fine, this is a potential alternative.

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 8]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
...
+    _ < dist (x) (𝔠 p) + 16 * ↑D ^ s J := by
+      gcongr
+      calc dist (𝔠 p) (c J)
+        _ ≤ dist middleX (𝔠 p) + dist middleX (c J) := by
+          rewrite (config := {occs := .pos [2]}) [dist_comm]
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:157]:
```suggestion
          nth_rw 2 [dist_comm]
```

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 9]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
...
+          exact DIsPos
+        _ < D ^ (s J) * (25 * D - 4) := by
+          rewrite (config := {occs := .pos [1]}) [mul_comm]
+          apply lt_mul_left
+          positivity
+          linarith
+        _ = D ^ (s J) * (25 * D) - D ^ (s J) * 4 := by
+          ring_nf
+        _ = D ^ (s J) * (D * 25) - D ^ (s J) * 4 := by
+          ring
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:192]:
```suggestion
```
If multiple steps can be done by `ring` then it can (almost?) always also do it in one step.

File: Carleson/ForestOperator/LargeSeparation.lean [hunk 10]
```diff
@@ -120,10 +120,84 @@ lemma local_tree_control (hu₁ : u₁ ∈ t) (hu₂ : u₂ ∈ t) (hu : u₁ 
...
+        _ = (D ^ (s J) * D) * 25 - D ^ (s J) * 4 := by
+          ring
+        _ = D ^ ((s J) + 1) * 25 - D ^ (s J) * 4 := by
+          congr
+          apply eq_comm.mp
+          exact_mod_cast Real.rpow_add_one (x:=D) (by positivity) (y:=(s J))
```
Comment (fpvandoorn) [inline Carleson/ForestOperator/LargeSeparation.lean:198]:
```suggestion
          rw [zpow_add_one₀ (by positivity)]
```

**Review by fpvandoorn — APPROVED** [review]
Your proof looks good! I only have a few stylistic remarks.

**Comment by lakesare** [comment]
Thanks for a detailed review, learned a few things!
The checks seem to pass, this can me merged :-)
